US03972926
The reactions of this example use the procedures of Example 1. 2-Nitrobenzyl chloride is reacted with benzene to give 2-nitrodiphenylmethane which is reduced to 2-aminodiphenylmethane. The 2-aminodiphenylmethane is reacted with trifluoromethanesulfonic anhydride to give 2-benzyltrifluoromethanesulfonanilide, m.p. 55°-56.5° C.

reactant | 2-Nitrobenzyl chloride | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-nitrodiphenylmethane | C1=CC=C(C=C1)CC2=CC=CC=C2[N+](=O)[O-] | C13H11NO2
